US07429565B2
{1-Cyano-3-ethyl-5-[6-methoxy-7-methyl-3-oxo-4-(2-trimethylsilanyl-ethoxy)-1,3-dihydro-isobenzofuran-5-yl]-pent-3-enyl}-phosphonic acid diethyl ester
To a solution of diethyl cyanomethylphosphonate (233 mg, 1.32 mmol) in THF (1 mL) was added a THF solution of sodium bis(trimethysilyl)amide (1.0 M, 1.21 mL, 1.21 mmol). After stirring for 30 minutes, the solution was added dropwise to a solution of 6-(3-bromomethyl-pent-2-enyl)-5-methoxy-4-methyl-7-(2-trimethylsilanyl-ethoxy)-3H-isobenzofuran-1-one (100 mg, 0.22 mmol) in THF (1 mL). The resulting mixture was allowed to stir at room temperature overnight before saturated aqueous ammonium chloride was added. The reaction mixture was extracted with ethyl acetate. The organic layer was dried over sodium sulfate and concentrated to dryness. The residue was purified by preparative reverse-phase HPLC, affording 51 mg (42%) of the desired product.

reactant | diethyl cyanomethylphosphonate | 1.32 mmol, 233 mg | C(#N)CP(OCC)(OCC)=O | C6H12NO3P
reactant | sodium bis(trimethysilyl)amide | 1.21 mmol, 1.0 M, 1.21 mL | C[Si](C)(C)[N-][Si](C)(C)C.[Na+]
reactant | 6-(3-bromomethyl-pent-2-enyl)-5-methoxy-4-methyl-7-(2-trimethylsilanyl-ethoxy)-3H-isobenzofuran-1-one | 0.22 mmol, 100 mg | BrCC(=CCC1=C(C(=C2COC(C2=C1OCC[Si](C)(C)C)=O)C)OC)CC | C21H31BrO4Si
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | THF | 1 mL | C1CCOC1 | C4H8O
solvent | THF | 1 mL | C1CCOC1 | C4H8O
product | {1-Cyano-3-ethyl-5-[6-methoxy-7-methyl-3-oxo-4-(2-trimethylsilanyl-ethoxy)-1,3-dihydro-isobenzofuran-5-yl]-pent-3-enyl}-phosphonic acid diethyl ester | 51 mg, 42% | C(C)OP(OCC)(=O)C(CC(=CCC=1C(=C2C(OCC2=C(C1OC)C)=O)OCC[Si](C)(C)C)CC)C#N | C27H42NO7PSi
